* C:\Users\Ian Diaz\Desktop\TP02\Ex1\iA\Spice.asc
V1 N003 0 AC 1
R1 N001 N003 100k
R3 N001 0 100k
R2 N002 N001 10k
R4 N002 0 400k
V2 VCC 0 15
V3 0 -VCC 15
XU1 0 N001 VCC -VCC N002 LM324
.ac dec 10 1 10meg
.lib C:\Users\Ian Diaz\Desktop\TP02\Ex1\iA\LM324.mod
.backanno
.end
